US07576218B2
In a 4 mL vial was added 100 mg of 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester (0.21 mmol, 1.0 equiv) and 400 mL EtOH. A solution of 9.2 mg of NaOH (0.23 mmol, 1.10 equiv) dissolved in 100 μL H2O was added to the reaction solution and the resultant mixture was stirred overnight at room temperature. The crude product was purified by reversed phase HPLC (acetonitrile—H2O with 0.1% TFA as the eluent) to yield 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid: MS (ES) M+H expected=464.3, found=464.1.

reactant | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid methyl ester | 0.21 mmol, 100 mg, 1.0 equiv | COC(=O)C1(CCN(CC1)C(CN1N=C(C(=C1C)Cl)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C20H20Cl2F3N3O3
reactant | EtOH | 400 mL | CCO | C2H6O
reactant | NaOH | 0.23 mmol, 9.2 mg, 1.10 equiv | [OH-].[Na+]
solvent | H2O | 100 μL | O | H2O
product | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carboxylic acid | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C(=O)O)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H18Cl2F3N3O3
